US06506773B2
2-(6,7-Dimethoxy-3,4-dihydro-1H-isoquinoline-2-sulfonylmethyl)-3-methyl-butyric acid
2-Chlorosulfonylmethyl-3-methyl-butyric acid tert-butyl ester (1.0 ml of a 1M solution in dichloromethane) was added to a solution of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (230 mg) and triethylamine (0.31 ml) in dichloromethane (10 ml) and the mixture stirred at room temperature for 16 h. Trifluoroacetic acid was added (5 ml) and the reaction left to stir for 2 h then diluted with hexane (10 ml) and evaporated under reduced pressure. The residue was azeotroped with 1:1 dichloromethane-hexane (2×10 ml), dissolved in 1M sodium hydroxide and washed with diethyl ether (2×10 ml). The aqueous was acidified to pH=4 with citric acid and extracted with ethyl acetate (2 ×15 ml). The combined extracts were washed with water (10 mil) and brine (10 ml), dried (Na2SO4), filtered and evaporated under reduced pressure to give the title compound (93 mg, 25%).

reactant | 2-Chlorosulfonylmethyl-3-methyl-butyric acid tert-butyl ester | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)Cl)=O | C10H19ClO4S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 230 mg | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | hexane | 10 ml | CCCCCC | C6H14
product | 2-(6,7-Dimethoxy-3,4-dihydro-1H-isoquinoline-2-sulfonylmethyl)-3-methyl-butyric acid | 93 mg, 25% | COC=1C=C2CCN(CC2=CC1OC)S(=O)(=O)CC(C(=O)O)C(C)C | C17H25NO6S
